US04131674
A suspension of 6-(7-chloro-1,8-naphthyridin-2-yl)-7-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine (1 g.) in acetonitrile (100 cc.) containing n-butyl isocyanate (7.25 cc.) and triethylamine (0.5 cc.) is heated at the reflux temperature for 1 hour 30 minutes. n-Butyl isocyanate (7.25 cc.) and triethylamine (0.5 cc.) are then added and heating at the reflux temperature is continued for a further 3 hours. The solution is filtered and the filtrate is concentrated under reduced pressure (40 mm.Hg). The residue obtained is triturated with diisopropyl ether (20 cc.). The solid is filtered off and is recrystallised from acetonitrile (35 cc.) to give 7-n-butylaminocarbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-5-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine (0.96 g.) melting at 215° C.

reactant | 6-(7-chloro-1,8-naphthyridin-2-yl)-7-hydroxy-5-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 1 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=NC=CC=C2C1=O)O | C15H9ClN4O2
reactant | n-butyl isocyanate | 7.25 cc | C(CCC)N=C=O | C5H9NO
reactant | triethylamine | 0.5 cc | C(C)N(CC)CC | C6H15N
reactant | n-Butyl isocyanate | 7.25 cc | C(CCC)N=C=O | C5H9NO
reactant | triethylamine | 0.5 cc | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
product | 7-n-butylaminocarbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-5-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 0.96 g | C(CCC)NC(=O)OC1N(C(C=2C1=NC=CC2)=O)C2=NC1=NC(=CC=C1C=C2)Cl | C20H18ClN5O3
